US07700641B2
B. Synthesis of 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (62%) as a white solid: MS (ES+) m/z 346.5 (M+1), 348.5 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)(C=1C(=CC2=C(CCO2)C1)O)O | C16H12BrNO4
product | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)C=1C(=CC2=C(CCO2)C1)O | C16H12BrNO3
